US04665198
[3aR-[3aα4α(1E,3R*,4R*)6aα]]-Hexahydro-3-fluoro-4-[3-[(tetrahydro-2H-pyran-2-yl)oxy]-4-fluoro-1-octenyl]-2H-cyclopenta[b]furan-2-one
By the procedure of Example 5 [3aR-[3aα,4α(1E,3R*,4R*)6aα]]-hexahydro-3-fluoro-4-(3-hydroxy-4-fluoro-1-octenyl]-2H-cyclopenta[b]furan-2-one was converted to [3aR-[3aα,4α(1E,3R*,4R*)6aα]]-hexahydro-3-fluoro-4[3-(tetrahydro-2H-pyran-2-yl)oxy]-4-fluoro-1-octenyl]-2H-cyclopenta[b]furan-2-one.

reactant | hexahydro-3-fluoro-4-(3-hydroxy-4-fluoro-1-octenyl]-2H-cyclopenta[b]furan-2-one | FC1C2C(OC1=O)CCC2C=CC(C(CCCC)F)O | C15H22F2O3
reactant | 2H-cyclopenta[b]furan-2-one | O1C=2C(=CC1=O)C=CC2 | C7H4O2
product | Hexahydro-3-fluoro-4-[3-[(tetrahydro-2H-pyran-2-yl)oxy]-4-fluoro-1-octenyl]-2H-cyclopenta[b]furan-2-one | FC1C2C(OC1=O)CCC2C=CC(C(CCCC)F)OC2OCCCC2 | C20H30F2O4
